US05296624
In accord with the procedure of Example 1, neophylmagnesium chloride was prepared from 674 g (4 mol) of neophyl chloride and 105 g (4.4 mol) of magnesium turnings in 1.5 liters of dry THF. The neophylmagnesium chloride was added to 598 g (4 mol) of methyltrichlorosilane and 2 g of cuprous cyanide in 500 ml of THF. 640 g (65% of theory) of neophylmethyldichlorosilane was obtained.

reactant | neophylmagnesium chloride | C(C(C)(C)C1=CC=CC=C1)[Mg]Cl
reactant | neophyl chloride | 4 mol, 674 g | C(C(C)(C)C1=CC=CC=C1)Cl | C10H13Cl
reactant | magnesium | 4.4 mol, 105 g | [Mg] | Mg
reactant | methyltrichlorosilane | 4 mol, 598 g | C[Si](Cl)(Cl)Cl | CH3Cl3Si
solvent | THF | 1.5 liters | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | neophylmethyldichlorosilane | 640 g, 65% | C(C(C)(C)C1=CC=CC=C1)C[SiH](Cl)Cl | C11H16Cl2Si
